US06924400B2
(a) 1-(4-Hydroxy-3-isopropylphenyl)propan-1-one
In a manner similar to that of Example 1(a), by reacting 10 g (73 mmol) of 2-isopropylphenol with 6.3 ml (73 mmol) of propionyl chloride, 4.5 g (32%) of the expected product are obtained in the form of white crystals with a melting point of 105° C.

reactant | 2-isopropylphenol | 73 mmol, 10 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | propionyl chloride | 73 mmol, 6.3 ml | C(CC)(=O)Cl | C3H5ClO
product | 1-(4-Hydroxy-3-isopropylphenyl)propan-1-one | 4.5 g, 32% | OC1=C(C=C(C=C1)C(CC)=O)C(C)C | C12H16O2
